US09216173B2
To a solution of N-(tert-butoxycarbonyl)-S-methylcysteine (23.5 g, 0.100 mol) in THF (400 mL) was added dropwise ethylchloroformate (9.6 mL, 0.10 mol) and triethylamine (10.1 g, 0.100 mol) slowly at −10° C. The reaction mixture was stirred at −10° C. for 30 minutes, and then the reaction mixture was diluted with water and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated under reduced pressure to give ethoxycarbonyl N-(tert-butoxycarbonyl)-S-methylcysteinate which was used without further purification.

reactant | N-(tert-butoxycarbonyl)-S-methylcysteine | 0.100 mol, 23.5 g | C(C)(C)(C)OC(=O)N[C@@H](CSC)C(=O)O | C9H17NO4S
reactant | ethylchloroformate | 0.10 mol, 9.6 mL | C(C)OC(=O)Cl | C3H5ClO2
reactant | triethylamine | 0.100 mol, 10.1 g | C(C)N(CC)CC | C6H15N
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | ethoxycarbonyl N-(tert-butoxycarbonyl)-S-methylcysteinate | C(C)(C)(C)OC(=O)N[C@@H](CSC)C(=O)OC(=O)OCC | C12H21NO6S
